US05756508
A mixture of 6 g of methyl acetoacetate, 5 mL of 1-propylamine, 40 mL of 1,2-dichloroethane, 3 mL of glacial acetic acid and 16 g of sodium triacetoxyborohydride was stirred at room temperature for 4 days. The reaction mixture was poured into 200 mL chloroform and 50 mL saturated aqueous Na2CO3 and the layers separated. The aqueous layer was extracted with 200 mL of chloroform and the combined organic layers dried over MgSO4 and concentrated under reduced pressure. After drying under vacuum, 9 g of (±)-methyl 2-(1-propylamino)butyrate was obtained as an oil: TLC (EtOAc); 1H NMR (400 MHz, CDCl3) 6.2 (br s, 1H), 3.65 (s, 3H), 3.2 (complex m, 2H), 2.65 (complex m, 2H), 2.45 (dd, 1H), 1.55 (m, 2H), 1.4 (d, 3H), 0.95 (t, 3H).

reactant | methyl acetoacetate | 6 g | C(CC(=O)C)(=O)OC | C5H8O3
reactant | 1-propylamine | 5 mL | C(CC)N | C3H9N
reactant | sodium triacetoxyborohydride | 16 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | Na2CO3 | 50 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | chloroform | 200 mL | C(Cl)(Cl)Cl | CHCl3
solvent | acetic acid | 3 mL | C(C)(=O)O | C2H4O2
solvent | 1,2-dichloroethane | 40 mL | ClCCCl | C2H4Cl2
product | (±)-methyl 2-(1-propylamino)butyrate | 9 g | C(CC)NC(C(=O)OC)CC | C8H17NO2
